US06787558B2
d) 3-(3-Benzyloxy-4-bromo-phenylamino)-but-2-enoic acid ethyl ester
To a mixture of 3-benzyloxy-4-bromo-phenylamine (55.7 g, 0.168 mol) and ethyl acetoacetate (23.4 mL, 0.185 mol) in cyclohexane was added toluene-4-sulfonic acid monohydrate (0.320 g, 1.68 mmol) The reaction mixture was refluxed during 6 h and the water was azeotropically removed. The reaction mixture was then partitioned between ethyl acetate and an aqueous solution of sodium hydrogenocarbonate. The organic layer was washed with brine, dried over sodium sulfate, filtered and the solvents were evaporated under vacuum. 69.6 g of the title compound were obtained. Black oil, ISP-MS: m/e=392.2 ([M+H]+).

reactant | 3-benzyloxy-4-bromo-phenylamine | 0.168 mol, 55.7 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Br)N | C13H12BrNO
reactant | ethyl acetoacetate | 0.185 mol, 23.4 mL | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | cyclohexane | C1CCCCC1 | C6H12
catalyst | toluene-4-sulfonic acid monohydrate | 1.68 mmol, 0.320 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3-(3-Benzyloxy-4-bromo-phenylamino)-but-2-enoic acid ethyl ester | 69.6 g | C(C)OC(C=C(C)NC1=CC(=C(C=C1)Br)OCC1=CC=CC=C1)=O | C19H20BrNO3
